US06642229B2
7-Methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-imidazo[1,2-a]pyrimidine (0.1 g, 0.29 mmol) was coupled to 3-bromopyridine-2-carbonitrile (0.11 g, 0.59 mmol) as described in Example 24. The crude product was applied to two preparative plates (silica gel) and eluted with 5% methanol in dichloromethane. The appropriate band was collected and processed, affording a solid which was recrystallised from dichloromethane/ethyl acetate/isohexane to give 3-[3-(7-methylimidazo[1,2-a]pyrimidin-3-yl)phenyl]pyridine-2-carbonitrile as a white solid (31 mg): δH (400 MHz, CDCl3) 2.67 (3H, s), 6.80 (1H, d, J 7), 7.55 (1H, td, J 8 and 1), 7.63-7.73 (3H, m), 7.77 (1H, m), 7.86 (1H, s), 7.94 (1H, dd, J 8 and 1.6), 8.75 (1H, d, J 1.6), 8.80 (1H, d, J 7); m/z (ES+) 312 (M++H).

reactant | 7-Methyl-3-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]-imidazo[1,2-a]pyrimidine | 0.29 mmol, 0.1 g | CC1=NC=2N(C=C1)C(=CN2)C2=CC(=CC=C2)B2OC(C(O2)(C)C)(C)C | C19H22BN3O2
reactant | 3-bromopyridine-2-carbonitrile | 0.59 mmol, 0.11 g | BrC=1C(=NC=CC1)C#N | C6H3BrN2
product | 3-[3-(7-methylimidazo[1,2-a]pyrimidin-3-yl)phenyl]pyridine-2-carbonitrile | 31 mg | CC1=NC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)C=2C(=NC=CC2)C#N | C19H13N5
